US07300936B2
(2R)-2-(4-Chlorobenzenesulfonylamino)-4-methylpentanoic acid amide:
To a solution of (D)-leucinamide hydrochloride (0.25 g, 1.5 mmol), and Et3N (0.43 mL, 3.0 mmol) in CH2Cl2 (150 mL) was added 4-chlorobenzene-sulfonyl chloride (380 mg, 1.8 mmol). The resulting solution was stirred at rt for 18 h. The reaction was then diluted with CH2Cl2 (200 mL) and washed with H2O, 0.5 N HCl, brine, and dried over MgSO4, to afford the titled compound (410 mg) as a white solid in 90% yield. MS (ESI), (M+H)+305.2; 1H NMR (DMSO-d6) δ7.77 (d, 2H, J=8.7), 7.62 (d, 2H, J=8.7), 6.90 (br s, 1H), 3.67 (m, 1H), 1.54 (m, 1H), 1.31 (m, 2H), 0.81 (d, 3H, J=7.0), 0.71 (d, 3H, J=7.0).

reactant | (D)-leucinamide hydrochloride | 1.5 mmol, 0.25 g | Cl.N[C@H](CC(C)C)C(=O)N
reactant | Et3N | 3.0 mmol, 0.43 mL | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzene-sulfonyl chloride | 1.8 mmol, 380 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-(4-Chlorobenzenesulfonylamino)-4-methylpentanoic acid amide | 410 mg, 90% yield | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CC(C)C | C12H17ClN2O3S
